US06057352
Step A: Preparation of 1-(3,5-dichlorophenoxy)-2-propanone
To a stirred solution of 3,5-dichlorophenol (0.49 g, 3 mmol) in acetone (10 mL) under a nitrogen atmosphere was added potassium carbonate (0.42 g, 3 mmol). In a separate flask, chloroacetone (0.34 mL, 4.2 mmol) and potassium iodide (0.02 g, 0.12 mmol) were dissolved in acetone (15 mL), heated at reflux for 10 min and then allowed to cool to room temperature. The chloroacetone solution was then added to the dichlorophenol solution dropwise via an addition funnel. The resulting mixture was stirred at room temperature overnight. The resulting solids were filtered off and the filtrate was concentrated under reduced pressure to yield the title compound of Step A (0.65 g) as a semisolid. 400 MHz 1H NMR (CDCl3): δ 7.01 (t,1H), 6.8 (d,2H), 4.5 (s,2H), 2.3 (s,3H). This material was used in Step D without further characterization.

reactant | 3,5-dichlorophenol | 3 mmol, 0.49 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 3 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 4.2 mmol, 0.34 mL | ClCC(C)=O | C3H5ClO
reactant | dichlorophenol | ClC=1C(=C(C=CC1)O)Cl | C6H4Cl2O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
catalyst | potassium iodide | 0.12 mmol, 0.02 g | [I-].[K+]
product | 1-(3,5-dichlorophenoxy)-2-propanone | 0.65 g | ClC=1C=C(OCC(C)=O)C=C(C1)Cl | C9H8Cl2O2
